US04011218
3,5-DIPYRAZINYL-1,2,4-TRIAZOLE
Sodium (50 mg.) is added to 2-cyanopyrazine (1 gram, 0.01 mole) in 20 ml. of methanol. The solution is allowed to stand 1 hour at room temperature and is added to a suspension of pyrazine carboxylic acid hydrazide (1.4 grams, 0.01 mole) in 50 ml. of methanol. The reaction mixture is heated at reflux for 2 hours and then at room temperature for 16 hours. After cooling, the intermediate acylamidrazone is removed by filtration and is then heated at temperatures between 200° to 260° C. over 21/2 hours. After cooling and recrystallization from methanol-water, 0.8 grams of 3,5-dipyrazinyl-1,2,4-triazole, m.p. 269°-270.5° C. is obtained.

reactant | Sodium | 50 mg | [Na] | Na
reactant | 2-cyanopyrazine | 0.01 mole, 1 gram | C(#N)C1=NC=CN=C1 | C5H3N3
reactant | pyrazine carboxylic acid hydrazide | 0.01 mole, 1.4 grams | N1=C(C=NC=C1)C(=O)NN | C5H6N4O
solvent | methanol | CO | CH4O
product | 3,5-DIPYRAZINYL-1,2,4-TRIAZOLE | N1=C(C=NC=C1)C1=NNC(=N1)C1=NC=CN=C1 | C10H7N7
